US07989444B2
Preparation 81: 1-(7-cyano-1,2,4,5-tetrahydrobenzo[d]azepin-3-yl)ethanone
NaNO2 (0.53 g, 1.05 eq) was added portion wise to a solution of 1-(7-amino-1,2,4,5-tetrahydrobenzo[d]azepin-3-yl)ethanone (1.5 g, 1 eq) in 1.5 M H2SO4 (10 mL) maintained to 0° C. The obtained solution was added drop wise to a solution of CuCN (0.8 g, 1.23 eq) and NaCN (1.25 g, 3.42 eq) in H2O (5 ml), then the reaction mixture was allowed to warm to room temperature and extracted with ethyl acetate. The organic solution was washed with 5% aqueous NaHCO3 and brine, then dried over Na2SO4 and concentrated to afford a crude material (1.5 g). Chromatography over silica gel (ethyl acetate/MeOH: 9/1) yielded the title compound as a pale orange solid (1.0 g, 63% yield).

reactant | NaNO2 | 0.53 g, 1.05 eq | N(=O)[O-].[Na+]
reactant | 1-(7-amino-1,2,4,5-tetrahydrobenzo[d]azepin-3-yl)ethanone | 1.5 g, 1 eq | NC1=CC2=C(CCN(CC2)C(C)=O)C=C1 | C12H16N2O
reactant | CuCN | 0.8 g, 1.23 eq | C(#N)[Cu]
reactant | NaCN | 1.25 g, 3.42 eq | [C-]#N.[Na+]
solvent | H2SO4 | 1.5 M, 10 mL | OS(=O)(=O)O | H2O4S
solvent | H2O | 5 ml | O | H2O
product | 1-(7-cyano-1,2,4,5-tetrahydrobenzo[d]azepin-3-yl)ethanone | 1.0 g, 63% yield | C(#N)C1=CC2=C(CCN(CC2)C(C)=O)C=C1 | C13H14N2O
